US09334290B2
A mixture of 3-(3-bromo-2-methylphenyl)-1-(4-fluorophenyl)pyrimidine-2,4(1H,3H)-dione (250 mg, 0.666 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (186 mg, 0.733 mmol), potassium acetate (131 mg, 1.33 mmol), and PdCl2(dppf) DCM adduct (16 mg, 0.020 mmol) in dioxane (4.4 mL) was heated at 110° C. After 3 h, additional PdCl2(dppf) DCM adduct was added and the mixture was heated at 110° C. for 6 h more. The cooled mixture was diluted with EtOAc, filtered through CELITE® and the solids were washed with EtOAc. The combined filtrates were washed sequentially with saturated aqueous NaHCO3 and brine, and dried and concentrated. The residue was purified by column chromatography on silica gel (24 g), eluting with EtOAc-hexanes (gradient from 25-100%), to give impure 1-(4-fluorophenyl)-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidine-2,4(1H,3H)-dione as a yellow glassy solid (217 mg), used without further purification. Mass spectrum m/z 423 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 7.90 (d, J=7.9 Hz, 1H), 7.69 (dd, J=7.0, 1.8 Hz, 1H), 7.61-7.52 (m, 2H), 7.40-7.26 (m, 4H), 5.94 (d, J=7.9 Hz, 1H), 2.24 (s, 3H), 1.32 (s, 12H).

reactant | 3-(3-bromo-2-methylphenyl)-1-(4-fluorophenyl)pyrimidine-2,4(1H,3H)-dione | 0.666 mmol, 250 mg | BrC=1C(=C(C=CC1)N1C(N(C=CC1=O)C1=CC=C(C=C1)F)=O)C | C17H12BrFN2O2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 0.733 mmol, 186 mg | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 1.33 mmol, 131 mg | C(C)(=O)[O-].[K+]
solvent | dioxane | 4.4 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf) DCM | 0.020 mmol, 16 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | 1-(4-fluorophenyl)-3-(2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidine-2,4(1H,3H)-dione | 217 mg | FC1=CC=C(C=C1)N1C(N(C(C=C1)=O)C1=C(C(=CC=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C23H24BFN2O4
